US07781454B2
Step 9: 2,5-dichloro-3-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile
tert-Butyl 3-{[5-chloro-4-(2,5-dichloro-3-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (569 mg, 0.997 mmol) was dissolved in TFA (5 mL). After 20 minutes, the reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by reverse phase chromatography eluting with 30-95% MeCN/H2O+0.1% TFA. Product fractions concentrated under reduced pressure to yield the title compound. 1H NMR (DMSO-d6) δ 8.53 (dd, J=4.4 Hz, J=1.6 Hz, 1H), 8.14 (dd, J=8.0 Hz, J=1.5 Hz, 1H), 8.04 (d, J=0.6 Hz, 1H), 7.89 (d, J=8.9 Hz, 1H), 7.79 (d, J=8.9 Hz, 1H), 7.44 (d, J=0.6 Hz, 1H), 7.21 (dd, J=8.0 Hz, J=4.5 Hz, 1H), 6.38 (d, 2H). HRMS (M+1)=470.0076

reactant | tert-Butyl 3-{[5-chloro-4-(2,5-dichloro-3-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.997 mmol, 569 mg | ClC1=C(C2=C(N(N=N2)CC2=NN(C3=NC=CC=C32)C(=O)OC(C)(C)C)C=C1)OC1=C(C(=CC(=C1)Cl)C#N)Cl | C25H18Cl3N7O3
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2,5-dichloro-3-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | ClC1=C(C#N)C=C(C=C1OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl)Cl | C20H10Cl3N7O
